US06525042B1
Methyl 4-[[(3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl]oxy]benzoate
In tetrahydrofuran (50 ml), methyl 4-hydroxybenzoate (1.01 g), (3R)-1-tert-butoxycarbonyl-3-pyrrolidinole (1.36 g) and triphenylphosphine (1.73 g) were dissolved, followed by the dropwise addition of a 40% solution (2.87 ml) of diethyl azodicarboxylate in toluene under ice cooling. The resulting mixture was stirred at room temperature for 20 hours. To the reaction mixture, ethyl acetate and a 10% aqueous solution of potassium carbonate were added to separate the organic layer. The organic layer so separated was washed with a 10% aqueous solution of potassium carbonate and water and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=2:1), whereby the title compound (1.60 g, 76%) was obtained.

reactant | methyl 4-hydroxybenzoate | 1.01 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | triphenylphosphine | 1.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-[[(3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl]oxy]benzoate | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C(=O)OC)C=C1 | C17H23NO5
